US04173633
To the solution of 5.0 g of the slow moving 1-(2-isopropylaminopropyl)-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one hydrochloride in 66 ml of anhydrous ethanol are added 3.64 g of anhydrous potassium carbonate and 3.14 ml of benzyl bromide. The mixture is refluxed for 3 hours while stirring and half of the original quantities of potassium carbonate and benzyl bromide are added. Refluxing is continued overnight and a second addition of the same reagents and refluxing for an additional day leads to complete benzylation. The mixture is evaporated, the residue diluted with water, extracted with chloroform and the extract dried and evaporated. The crude product is crystallized from petroleum ether and recrystallized from ethanol to give the 1-[2-(N-isopropyl-N-benzylamino)-propyl]-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one, melting at 205°-207°.

reactant | 1-(2-isopropylaminopropyl)-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one hydrochloride | Cl.C(C)(C)NC(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O)C
reactant | potassium carbonate | 3.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 3.14 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 66 ml | C(C)O | C2H6O
product | 1-[2-(N-isopropyl-N-benzylamino)-propyl]-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one | C(C)(C)N(CC1=CC=CC=C1)C(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O)C | C28H36N2O2
